US03946025
6H-Pyrido[1,2-c][1,3,5]benzothiadiazepine, hydrochloride
To a solution of 1.0 g of 6H-pyrido[1,2-c][1,3,5]-benzothiadiazepine in 20 ml of anhydrous 2-propanol is added about 5.0 ml of 4.2 N 2-propanolic hydrogen chloride. The clear solution that is formed is diluted with anhydrous ether until a turbidity persists and is then cooled to give the pale yellow crystalline product. Recrystallization from acetonitrile gives about 1.0 g of the named product, mp about 258°-260°.

reactant | 6H-pyrido[1,2-c][1,3,5]-benzothiadiazepine | 1.0 g | C1=CC=CC2=C1N=C1N(CS2)C=CC=C1 | C12H10N2S
reactant | hydrogen chloride | 4.2 N, about 5.0 ml | Cl | ClH
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 6H-Pyrido[1,2-c][1,3,5]benzothiadiazepine, hydrochloride | about 1.0 g | Cl.C1=CC=CC2=C1N=C1N(CS2)C=CC=C1 | InChI=1S/C12H10N2S.ClH/c1-2-6-11-10(5-1)13-12-7-3-4-8-14(12)9-15-11;/h1-8H,9H2;1H
